US04603120
Stage 1.1 Z-Lys(Boc)-Phe-Phe-OH
4.19 g of Z-Lys(Boc)-OPc and 2.47 g of HCl.H-Phe-Phe-OH are taken up in 50 ml of dimethylformamide, 0.84 ml of N-ethylmorpholine are added and the whole is left to stand for 24 hours at 20°. The reaction mixture is concentrated by evaporation and the residue is triturated with water and dried over phosphorus pentoxide. Recrystallisation from ether yields crystals having a melting point of 154° to 156°.

reactant | Z-Lys(Boc) | 4.19 g | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C19H28N2O6
reactant | HCl | 2.47 g | Cl | ClH
reactant | H-Phe-Phe-OH | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C18H20N2O3
reactant | N-ethylmorpholine | 0.84 ml | C(C)N1CCOCC1 | C6H13NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Z-Lys(Boc)-Phe-Phe-OH | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C37H46N4O8
